// Transistor Definitions
Q1 Vout Vin 2 NPN
Q2 2 0 0 NPN

// Resistor
RE 2 Vout 1000 ; Example value for resistance

// Voltage Sources
VCC Vout 0 DC 10 ; Example value for VCC
Vin Vin 0 DC 5 ; Example value for Vin

// Define .MODEL for NPN BJT
.model NPN NPN (Is=1e-14 Bf=100)

// Analysis
.op
.end